US04920128
3-Bromo-1-isopropyl-7-methoxy-1H-pyrazolo[3,4-b]quinoline was prepared from 1-isopropyl-7-methoxy-1H-pyrazolo[3,4-b]quinolin-3-amine by preparation of the diazonium salt in hydrobromic acid followed by reaction with cuprous bromide. The product was recrystallized from ether/hexane and obtained in the form of a brown solid, m.p. 130°-131° C.

reactant | 1-isopropyl-7-methoxy-1H-pyrazolo[3,4-b]quinolin-3-amine | C(C)(C)N1N=C(C=2C1=NC1=CC(=CC=C1C2)OC)N | C14H16N4O
reactant | hydrobromic acid | Br | BrH
product | 3-Bromo-1-isopropyl-7-methoxy-1H-pyrazolo[3,4-b]quinoline | BrC1=NN(C2=NC3=CC(=CC=C3C=C21)OC)C(C)C | C14H14BrN3O
